US05852023
Preparation of the precursor ethyl (4-chloropyrimidin-6-yl)acetate
2.7 g (50 mmol) of sodium hydride (80% dispersion in oil) were placed in 100 ml of dry dioxane, and 11.7 g (90 mmol) of ethyl acetoacetate were added dropwise. The mixture was then stirred at 50° C. for 1 hour. After cooling to room temperature, a solution of 4.5 g (30 mmol) of 4,6-dichloropyrimidine in 50 ml of dioxane was added dropwise. After heating at reflux for 6 hours the mixture was cooled to room temperature, 10 ml of methanol were added dropwise in order to destroy superfluous sodium hydride, and the mixture was concentrated. The residue was taken up in water and brought to a pH of 3 to 4 with conc. hydrochloric acid. After extractive stirring with toluene, the organic phase was dried and concentrated. Chromatography on silica gel left 1.8 g (30% of theory) of a colorless oil.

reactant | sodium hydride | 50 mmol, 2.7 g | [H-].[Na+]
reactant | ethyl acetoacetate | 90 mmol, 11.7 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 4,6-dichloropyrimidine | 30 mmol, 4.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | methanol | 10 ml | CO | CH4O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | ethyl (4-chloropyrimidin-6-yl)acetate | ClC1=NC=NC(=C1)CC(=O)OCC | C8H9ClN2O2
